US07358268B2
(iii) 3-[1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-imidazol-4-yl]-propionic acid methyl ester
To a solution of 3-{1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-imidazol-4-yl}-propionic acid methyl ester (140 mg) and NEt3 (70 μL) in DCM (5 mL) was added a solution of trichloroacetyl chloride (50 μL) in DCM (1 mL) dropwise at 0° C. The mixture was stirred for 5 min at 0° C. and for 30 min at RT. More NEt3 (280 μL) and 1-isopropyl-piperidin-4-ylamine dihydrochloride (88 mg) were added and stirring was continued for 2 h at RT. The mixture was concentrated and the residue was purified by preparative HPLC. The fractions containing the product were evaporated to provide 47 mg of the title compound as its trifluoroacetate salt. MS (ESI+): m/e=520, chloro pattern.

reactant | 3-{1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-imidazol-4-yl}-propionic acid methyl ester | 140 mg | COC(CCC=1N=CN(C1)CC1=NOC(=C1)C=1SC(=CC1)Cl)=O | C15H14ClN3O3S
reactant | NEt3 | 70 μL | CCN(CC)CC | C6H15N
reactant | trichloroacetyl chloride | 50 μL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | NEt3 | 280 μL | CCN(CC)CC | C6H15N
reactant | 1-isopropyl-piperidin-4-ylamine dihydrochloride | 88 mg | Cl.Cl.C(C)(C)N1CCC(CC1)N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-[1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-imidazol-4-yl]-propionic acid methyl ester | 47 mg | COC(CCC=1N=C(N(C1)CC1=NOC(=C1)C=1SC(=CC1)Cl)C(NC1CCN(CC1)C(C)C)=O)=O | C24H30ClN5O4S
